US07208633B2
bis(2-methylphenyl)phosphine oxide
Under an argon atmosphere, a solution of magnesium (3.55 g, 1.0 equivalent) and a small amount of iodine in THF (40 mL) was stirred at room temperature for 1 hr. A solution of o-tolyl bromide (25 g, 0.146 moL) in THF (5 mL) was added at 30° C. After stirring at 40° C. for 30 min., the mixture was stirred at 5° C. for 1 hr. Then, a solution of diethyl phosphite (10.08 g, 0.5 equivalent) in THF (10 mL) was added at 5° C., and the mixture was stirred at 5° C. for 1 hr. Water (20 mL) was added at 3° C., and then toluene (50 mL) and 6M-HCl (20 mL) were added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed successively with water (10 mL), 5% aqueous NaHCO3 solution (10 mL) and 5% aqueous NaCl solution (10 mL). Then the organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from heptane to give the title compound (6.70 g, white crystals). yield 39.9%. melting point: 91.3° C.

reactant | magnesium | 3.55 g, 1.0 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | o-tolyl bromide | 25 g | C=1(C(=CC=CC1)Br)C | C7H7Br
reactant | diethyl phosphite | 10.08 g, 0.5 equivalent | P(OCC)(OCC)[O-]
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 20 mL | O | H2O
product | bis(2-methylphenyl)phosphine oxide | 6.70 g, yield 39.9% | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)=O | C14H15OP
